US08664220B2
Step 1: 3-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester and [4-(2-ethoxycarbonylethyl)phenyl]boronic acid.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C15H17BrN2O3
reactant | [4-(2-ethoxycarbonylethyl)phenyl]boronic acid | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)(C)C)=O | C26H30N2O5
